US07741341B2
To a mixture of 7.53 g (35.3 mmol) 1-cyclopropyl-piperidin-4-ylamine-dihydrochloride and 32.39 g (0.386 mol) NaHCO3 in 1300 mL THF and 370 mL water was added a solution of 11.79 g (32.1 mmol) 2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester in 360 mL THF. The reaction mixture was stirred vigorously for 2 h at room temperature. The THF was evaporated. The precipitate was filtered off and treated twice with approx. 300 mL of a saturated NaHCO3-solution under ultrasonic conditions. After filtration the resulting solid was washed twice with 150 mL water and dried under vacuo at 45° C. to give pure 2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic methyl ester in form of a light brown crystalline material. Yield: 9.9 g

reactant | 1-cyclopropyl-piperidin-4-ylamine-dihydrochloride | 35.3 mmol, 7.53 g | Cl.Cl.C1(CC1)N1CCC(CC1)N
reactant | NaHCO3 | 0.386 mol, 32.39 g | C(=O)(O)[O-].[Na+]
reactant | 2-trichloromethyl-1H-benzoimidazole-5-carboxylic acid methyl ester | 32.1 mmol, 11.79 g | COC(=O)C1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C10H7Cl3N2O2
solvent | THF | 1300 mL | C1CCOC1 | C4H8O
solvent | water | 370 mL | O | H2O
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | 2-(1-cyclopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic methyl ester | COC(=O)C1=CC2=C(NC(=N2)C(NC2CCN(CC2)C2CC2)=O)C=C1 | C18H22N4O3
